US04547514
4-(3,4-Dichlorophenoxy)-1-piperidinecarbonyl Chloride
To a stirred solution of 16 g (0.16 mole) of phosgene in 200 ml of methylene chloride at 15° C. under nitrogen gas was added dropwise a solution of 47.2 g (0.14 mole) of 1-benzyl-4-(3,4-dichlorophenoxy)piperidine in 100 ml of methylene chloride. The addition was complete within 1 hr and stirring was continued for an additional hour. The mixture was concentrated on a rotary evaporator to give a light oil. The oil was dissolved in isopropyl either and the mixture filtered to remove a small amount of insoluble material. The filtrate was washed with 50 ml of water, dried over magnesium sulfate, filtered and concentrated in vacuo to an oil. The oil was triturated four times with 100 ml of hexane decanting off the hexane each time after cooling. The oil residue, 37 g (86%), was treated with 10 ml of triethylamine to quaternize (precipitate) any excess benzyl chloride.

reactant | phosgene | 0.16 mole, 16 g | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-4-(3,4-dichlorophenoxy)piperidine | 0.14 mole, 47.2 g | C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl | C18H19Cl2NO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(3,4-Dichlorophenoxy)-1-piperidinecarbonyl Chloride | ClC=1C=C(OC2CCN(CC2)C(=O)Cl)C=CC1Cl | C12H12Cl3NO2
